US04251534
6-Methyl-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-2H,4H-oxazolo[5,4,3-ij]quinolin-4-one.
To a solution of 6.8 gm. (0.02 mole) of 8-hydroxy-4-methyl-6-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-2(1H)-quinolinone is added 2.8 gm. (0.02 mole) of potassium carbonate and 25.3 gm. (0.15 mole) of dibromomethane. The solution is heated and stirred at 70° in a nitrogen atmosphere for 4 hours. At the end of this period the solution is cooled and added to 50 ml. of water. The resultant solid is filtered and purified by chromatography on silicic acid. Elution with 97.5% chloroform/2.5% methanol gives 2.0 gm. of 6-methyl-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-2H,4H-oxazolo[5,4,3-ij]quinolin-4-one, recrystallized from acetonitrile, m.p. 262°-264°.

reactant | 8-hydroxy-4-methyl-6-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-2(1H)-quinolinone | 0.02 mole | OC=1C=C(C=C2C(=CC(NC12)=O)C)C(C(F)(F)F)(C(F)(F)F)O | C13H9F6NO3
reactant | potassium carbonate | 0.02 mole | C([O-])([O-])=O.[K+].[K+]
reactant | dibromomethane | 0.15 mole | BrCBr | CH2Br2
solvent | water | O | H2O
product | 6-Methyl-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-2H,4H-oxazolo[5,4,3-ij]quinolin-4-one | CC1=CC(N2C3=C(C=C(C=C13)C(C(F)(F)F)(C(F)(F)F)O)OC2)=O | C14H9F6NO3
